US06703391B2
N-(1,2,3,4-tetrahydro-5-quinolinyl)acetamide
A solution of 5-nitroquinoline (50 g, 0.29 mol) in 1 L acetic acid and 30 mL acetic anhydride was treated with 5% Pd/C (3 g) and shaken on a Parr apparatus under a H2 atmosphere (50.8 psi) for 10.4 hours. The reaction was then treated with PtO2 (1 g) and recharged with H2 (50.8 psi) and shaken an additional 2 hours. After removing the catalyst by filtration, the filtrate was evaporated and the residue was separated between methylene chloride and water. The aqueous layer was basified with 50% NaOH and washed with methylene chloride. The combined organic layer was dried over sodium sulfate, filtered, and evaporated. The resulting solid was crystallized from ethyl acetate (23 g, 42%).

reactant | 5-nitroquinoline | 0.29 mol, 50 g | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1 | C9H6N2O2
reactant | acetic acid | 1 L | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Pd/C | 3 g | [Pd] | Pd
catalyst | PtO2 | 1 g | O=[Pt]=O
product | N-(1,2,3,4-tetrahydro-5-quinolinyl)acetamide | N1CCCC2=C(C=CC=C12)NC(C)=O | C11H14N2O
